US05965059
(1-1) Synthesis of 2-fluoro-2-trifluoromethyl-4-octenamide
Into a reaction flask were charged 920 mg of (R)-1-hexen-3-ol (91.2%e.e.), 5.7 ml of triethylamine and 10 ml of dichloromethane, and the reaction mixture was cooled to 0° C. Holding the temperature at 0° C., 3.3 ml of hexafluoropropene diethylamine was added dropwise into the mixture. After the addition, the reaction mixture was stirred for 2 hours at 0° C. and 48 hours at room temperature. Into the mixture was added a saturated aqueous solution of sodium bicarbonate, and the mixture was extracted with dichloromethane. The organic layer was dried with anhydrous magnesium sulphate and then concentrated. The raw product was purified by silica gel column chromatography to obtain 1.35 g of the desired compound.

reactant | (R)-1-hexen-3-ol | 920 mg | C=C[C@@H](CCC)O | C6H12O
reactant | triethylamine | 5.7 ml | C(C)N(CC)CC | C6H15N
reactant | hexafluoropropene diethylamine | 3.3 ml | C(C)NCC.FC(C(=C(F)F)F)(F)F
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-fluoro-2-trifluoromethyl-4-octenamide | 1.35 g | FC(C(=O)N)(CC=CCCC)C(F)(F)F | C9H13F4NO
